US08242145B2
Step 2: {3-[2-((4R,5S)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester
To a solution of {4-hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester (0.8 g, 1.6 mmol) in DMF (10 mL) was added cesium carbonate (1.0 g, 3.1 mmol) and N-phenyl-bis(trifluoromethanesulfonimide) (0.61 g, 1.7 mmol), and the reaction was stirred for 1 hour. After aqueous work-up, the residue was purified by silica gel chromatography to give the title compound.

reactant | {4-hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | 1.6 mmol, 0.8 g | COC(CC1=CC(=C(C=C1)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C27H24F3NO6
reactant | cesium carbonate | 3.1 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 1.7 mmol, 0.61 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | {3-[2-((4R,5S)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C28H23F6NO8S
